US05652251
Methyl 2-acetyl-3-(3-chloro-4-trifluoromethylphenyl)acrylate
32.3 g (155 mol) of 3-chloro-4-trifluoromethylbenzaldehyde and 18.0 g (155 mmol) of methyl acetoacetate are dissolved in 200 ml of methylene chloride, and 1.2 ml of piperidine and 1 ml of glacial acetic acid are added. The mixture is heated for 5 hours, using a water separator. It is then washed with water, dried over MgSO4 and concentrated. The product is recrystallized twice from methanol. 25.6 g (54% of theory) of the title compound are obtained.

reactant | 3-chloro-4-trifluoromethylbenzaldehyde | 155 mol, 32.3 g | ClC=1C=C(C=O)C=CC1C(F)(F)F | C8H4ClF3O
reactant | methyl acetoacetate | 155 mmol, 18.0 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | piperidine | 1.2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Methyl 2-acetyl-3-(3-chloro-4-trifluoromethylphenyl)acrylate | C(C)(=O)C(C(=O)OC)=CC1=CC(=C(C=C1)C(F)(F)F)Cl | C13H10ClF3O3
